US05045190
C16E8 -Pyridinium was synthesized by tresylation of C16E8 followed by reaction with pyridine and purification by reverse phase HPLC as described in Examples 1-3 above.

reactant | C16E8 | CCCCCCCCCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCO | C32H66O9
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | C16E8 Pyridinium | CCCCCCCCCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCO.[NH+]1=CC=CC=C1 | InChI=1S/C32H66O9.C5H5N/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-17-34-19-21-36-23-25-38-27-29-40-31-32-41-30-28-39-26-24-37-22-20-35-18-16-33;1-2-4-6-5-3-1/h33H,2-32H2,1H3;1-5H/p+1
